US05998433
h) Synthesis of 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one hydrochloride
To a solution of 0.148 g of 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one in 10 ml of diethyl ether, 0.5 ml of about 10% hydrogen chloride in methanol was added, followed by stirring for 10 minutes, after which the solvent was distilled off under reduced pressure. The resulting crude product was crystallized from diethyl ether to yield the desired product.

reactant | 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one | 0.148 g | O1C(=NCC1)C1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C22H26N2O3
reactant | hydrogen chloride | 0.5 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | 1-[2-(2-oxazolin-2-yl)-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl]-6-phenylhexan-1-one hydrochloride | Cl.O1C(=NCC1)C1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | InChI=1S/C22H26N2O3.ClH/c25-21(10-6-2-5-9-17-7-3-1-4-8-17)24-13-11-18-15-19(27-20(18)16-24)22-23-12-14-26-22;/h1,3-4,7-8,15H,2,5-6,9-14,16H2;1H
